US04089976
Preparation of cis and trans-1,2,3,4-tetrahydro-4-methoxy-1-naphthylamine.
A mixture of 6.9 g. of cis and trans-N-(1,2,3,4-tetrahydro-4-methoxy-1-naphthyl)acetamide, 56.11 g. of potassium hydroxide, 50 ml. of ethylene glycol and 20 ml. of water is stirred and heated at reflux for an overnight period. The mixture is cooled, 100 ml. of water is added and the mixture extracted with methylene chloride (3 × 50 ml.). The combined extract was washed with 125 ml. of 10% sodium hydroxide solution, dried and evaporated in vacuo to afford 5.7 g. of title product - an oil. This oily amine is used without further purification for the preparation of the urea derivative.

reactant | trans-N-(1,2,3,4-tetrahydro-4-methoxy-1-naphthyl)acetamide | CO[C@@H]1CC[C@H](C2=CC=CC=C12)NC(C)=O | C13H17NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | water | O | H2O
product | trans-1,2,3,4-tetrahydro-4-methoxy-1-naphthylamine | CO[C@@H]1CC[C@H](C2=CC=CC=C12)N | C11H15NO
